US04602099
When in the procedure of Example 1(B) an appropriate amount of 5-(cis-9-pentadecenyloxy)-2-furoic acid is substituted for 5-(tetradecyloxy)furoic acid, methyl 5-(cis-9-pentadecenyloxy)-2-furyl ketone is obtained.

reactant | 5-(cis-9-pentadecenyloxy)-2-furoic acid | C(CCCCCCC\C=C/CCCCC)OC1=CC=C(O1)C(=O)O | C20H32O4
reactant | 5-(tetradecyloxy)furoic acid | C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)O | C19H32O4
product | methyl 5-(cis-9-pentadecenyloxy)-2-furyl ketone | C(CCCCCCC\C=C/CCCCC)OC1=CC=C(O1)C(=O)C | C21H34O3
